* source I-COMPARADOR-01
M_M8         N62497 N55353 0 0 CMOSN  
+ L=2u  
+ W=2u         
M_M3         N44239 N44239 N43983 N43983 CMOSP  
+ L=2u  
+ W=2u         
M_M4         N48205 N44239 N43983 N43983 CMOSP  
+ L=2u  
+ W=2u         
M_M7         N55353 N44385 0 0 CMOSN  
+ L=.2u  
+ W=170u         
M_M5         N44303 N44385 0 0 CMOSN  
+ L=15u  
+ W=15u         
V_VDD         N43983 0 3.3
M_M10         N62497 N55353 N43983 N43983 CMOSP  
+ L=1u  
+ W=4.306u         
M_M9         N55353 N48205 N43983 N43983 CMOSP  
+ L=.2u  
+ W=185u         
V_VBIAS         N44385 0 .35
V_VQ+         IN+ 0 .05
M_M1         N44239 IN- N44303 0 CMOSN  
+ L=1u  
+ W=458u         
V_VQ-         IN- 0 1
M_M2         N48205 IN+ N44303 0 CMOSN  
+ L=1u  
+ W=458u         
